US07691892B2
e) 4-{5-[2-(2-Fluoro-5-methyl-phenyl)-2H-tetrazol-5-ylmethoxy]-4-methyl-4H-[1,2,4]triazol-3-yl}-pyridine
The title compound is prepared from [2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-yl]-methanol (1 mmol), sodium hydride (1.5 mmol) and 4-(5-methanesulfonyl-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine (1.25 mmol).

reactant | [2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-yl]-methanol | 1 mmol | FC1=C(C=C(C=C1)C)N1N=C(N=N1)CO | C9H9FN4O
reactant | sodium hydride | 1.5 mmol | [H-].[Na+]
reactant | 4-(5-methanesulfonyl-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine | 1.25 mmol | CS(=O)(=O)C=1N(C(=NN1)C1=CC=NC=C1)C | C9H10N4O2S
product | 4-{5-[2-(2-Fluoro-5-methyl-phenyl)-2H-tetrazol-5-ylmethoxy]-4-methyl-4H-[1,2,4]triazol-3-yl}-pyridine | FC1=C(C=C(C=C1)C)N1N=C(N=N1)COC=1N(C(=NN1)C1=CC=NC=C1)C | C17H15FN8O
